US08802704B2
Step 1: methyl 2-hydroxy-2′-(trifluoromethyl)biphenyl-4-carboxylate
A mixture of methyl 4-bromo-3-hydroxybenzoate (Combi-Blocks CA-4189, 4.00 g, 17.3 mmol), 2-(trifluoromethyl)phenylboronic acid (3.95 g, 20.8 mmol), cesium fluoride (7.90 g, 52 mmol), palladium(II) acetate (78 mg, 0.35 mmol) and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (426 mg, 1.05 mmol) was prepared in dioxane (40 mL) and water (20 mL) under N2 atmosphere. The reaction mixture was heated at 90° C. After 90 minutes, additional amounts of 2-(trifluoromethyl)phenylboronic acid (1.90 g, 10 mmol), palladium(II) acetate (78 mg, 0.35 mmol) and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (426 mg, 1.05 mmol) were added. After 45 additional minutes, additional amounts of 2-(trifluoromethyl)phenylboronic acid (2.7 g, 14.2 mmol), palladium(II) acetate (78 mg, 0.35 mmol) and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (426 mg, 1.05 mmol) were added. After 15 hours, the reaction mixture was cooled to RT, diluted with MTBE (200 mL), and then washed with water (30 mL) and brine (50 mL). The aqueous layers were extracted with MTBE (100 mL). The organic layers were combined, dried over MgSO4 and concentrated under reduced pressure. After purification by flash chromatography (silica, EtOAc/heptane), the title compound was obtained as a yellow oil (5.03 g containing 12% w/w of DCM). HPLC (Method A), Rt 3.6 min (purity: 98.8%). LC/MS (Method B): 297.0 (M+H)+. 295.0 (M−H)−.

reactant | methyl 4-bromo-3-hydroxybenzoate | 17.3 mmol, 4.00 g | BrC1=C(C=C(C(=O)OC)C=C1)O | C8H7BrO3
reactant | 2-(trifluoromethyl)phenylboronic acid | 20.8 mmol, 3.95 g | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | cesium fluoride | 52 mmol, 7.90 g | [F-].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 1.05 mmol, 426 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | 2-(trifluoromethyl)phenylboronic acid | 10 mmol, 1.90 g | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 1.05 mmol, 426 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | 2-(trifluoromethyl)phenylboronic acid | 14.2 mmol, 2.7 g | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 1.05 mmol, 426 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | MTBE | 200 mL | CC(C)(C)OC | C5H12O
catalyst | palladium(II) acetate | 0.35 mmol, 78 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 0.35 mmol, 78 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 0.35 mmol, 78 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 20 mL | O | H2O
product | methyl 2-hydroxy-2′-(trifluoromethyl)biphenyl-4-carboxylate | OC1=C(C=CC(=C1)C(=O)OC)C1=C(C=CC=C1)C(F)(F)F | C15H11F3O3
